US09029538B2
4-(4-Fluoro-phenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-ylamino)-phenyl]-amide.
This compound was synthesized using N-(6,7-dimethoxyquinolin-4-yl)-benzene-1,4-diamine and 4-(4-fluorophenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro[1,2,4]triazine-6-carboxylic acid by the method for example 134. mp=152-155° C.; LCMS m/z=571 (M+1); 1H NMR (DMSO-d6) δ: 8.67 (s, 1H), 7.68 (d, 2H, J=8.87 Hz), 7.54 (d, 2H, J=8.68 Hz), 7.20-7.34 (m, 12H), 7.10 (brs, 1H), 6.99 (s, 1H), 6.60 (d, 2H, J=8.6 Hz), 4.04 (d, 7H, J=2.2 Hz), 3.79 (brs, 2H), 1.21 (t, 1H, J=7.0 Hz), 0.81-0.91 (m, 1H).

reactant | N-(6,7-dimethoxyquinolin-4-yl)-benzene-1,4-diamine | COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC=C(C=C1)N | C17H17N3O2
reactant | 4-(4-fluorophenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro[1,2,4]triazine-6-carboxylic acid | FC1=CC=C(C=C1)N1C(N(N=C(C1=O)C(=O)O)C(C)C)=O | C13H12FN3O4
product | 4-(4-Fluoro-phenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-ylamino)-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC=C(C=C1)NC(=O)C=1C(N(C(N(N1)C(C)C)=O)C1=CC=C(C=C1)F)=O | C30H27FN6O5
